US06660046B1
0.5 g of N-(2,5-dimethyl-4-nitro-2H-pyrazol-3-yl)-N′,N′-dimethylpropane-1,3-diamine and 2.2 g of 2-chloroethanol were introduced into a 10 ml three-necked round-bottomed flask equipped with a magnetic stirrer, a thermometer and a condenser. The reaction medium was maintained at reflux for 2 hours. The medium was cooled to room temperature and diluted with 50 ml of ethyl acetate. The precipitate was filtered off. 0.55 g of [3-(2,5-dimethyl-4-nitro-2H-pyrazol-3-yl-amino)propyl](2-hydroxyethyl)dimethylammonium chloride was obtained in the form of yellow crystals, in a yield of 82%.

reactant | N-(2,5-dimethyl-4-nitro-2H-pyrazol-3-yl)-N′,N′-dimethylpropane-1,3-diamine | 0.5 g | CN1N=C(C(=C1NCCCN(C)C)[N+](=O)[O-])C | C10H19N5O2
reactant | 2-chloroethanol | 2.2 g | ClCCO | C2H5ClO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | [3-(2,5-dimethyl-4-nitro-2H-pyrazol-3-yl-amino)propyl](2-hydroxyethyl)dimethylammonium chloride | 0.55 g, yield of 82% | [Cl-].CN1N=C(C(=C1NCCC[N+](C)(C)CCO)[N+](=O)[O-])C | InChI=1S/C12H24N5O3.ClH/c1-10-11(16(19)20)12(15(2)14-10)13-6-5-7-17(3,4)8-9-18;/h13,18H,5-9H2,1-4H3;1H/q+1;/p-1
